US04301163
1-[(3,4,5-trimethoxy)benzyloxymethyl]-1-phenyl-N-methyl-n-propylamine
Prepared by the process of Example 3 from 2-phenyl-2-methylamino-1-butanol and from 3,4,5-trimethoxy-α-chlorotoluene; the product is obtained in the form of a colourless and viscous oil which is analytically pure and appropriate.

reactant | 2-phenyl-2-methylamino-1-butanol | C1(=CC=CC=C1)C(CO)(CC)NC | C11H17NO
reactant | 3,4,5-trimethoxy-α-chlorotoluene | COC=1C=C(C=C(C1OC)OC)CCl | C10H13ClO3
product | 1-[(3,4,5-trimethoxy)benzyloxymethyl]-1-phenyl-N-methyl-n-propylamine | COC=1C=C(COCC(CC)(C2=CC=CC=C2)NC)C=C(C1OC)OC | C21H29NO4
